US04341718
N-(1-Methylethyl)-3-Phenyl-2-Oxiranecarboxamide (V)
A mixture of N-(1-methylethyl)cinnamoylcarboxamide (18 g.), m-chloroperbenzoic acid (23.6 g.), 4,4'-thiobis(6-tert-butyl-m-cresol) (0.3 g.) and ethylene dichloride (250 ml.) was heated under gentle reflux for 1 hour, then chilled in ice. A precipitate (m-chlorobenzoic acid) was separated by filtration and washed with ethylene dichloride. The filtrate and washings were combined, and evaporated under reduced pressure on a rotary evaporator to give an amber oil. The oil was dissolved in chloroform (300 ml.) and the chloroform solution was washed with 5% aqueous sodium bicarbonate solution twice, then with saline. The chloroform solution was dried over magnesium sulfate, then evaporated under reduced pressure in a rotary evaporator to give an oil. The oil solidified on standing. The solid mass was recrystallized from ether giving 8.4 g. of product, m.p. 114°-115°.

reactant | N-(1-methylethyl)cinnamoylcarboxamide | 18 g | CC(C)NC(=O)C(C=CC1=CC=CC=C1)=O | C13H15NO2
reactant | m-chloroperbenzoic acid | 23.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4,4'-thiobis(6-tert-butyl-m-cresol) | 0.3 g | S(C=1C(=CC(=C(C1)C(C)(C)C)O)C)C=1C(=CC(=C(C1)C(C)(C)C)O)C | C22H30O2S
reactant | ethylene dichloride | 250 ml | C(CCl)Cl | C2H4Cl2
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(1-Methylethyl)-3-Phenyl-2-Oxiranecarboxamide | CC(C)NC(=O)C1OC1C1=CC=CC=C1 | C12H15NO2
